US07994171B2
1-(furan-2-yl)cyclopropanamine.
To a solution of 2-furonitrile (5 g, 53.71 mmol, 1.0 eq) in dry THF under an argon atmosphere was added slowly titanium isopropoxide (18.9 ml, 64.4 mmol, 1.2 eq) at r.t. The reaction mixture was stirred for 15 min. A 1M solution of EtMgBr in THF (129 ml, 129 mmol, 2.4 eq) was added slowly via syringe to the mixture at 0° C. After addition, the reaction mixture was allowed to warm to r.t. and stirred at r.t. for 2 hour. BF3.Et2O (10.4 ml) was then added slowly to the mixture at 0° C. After the completion of addition, the reaction mixture was stirred at r.t. for 30 min. The reaction mixture was added with ice, and then with 10% NaOH solution slowly till the reaction mixture becomes basic. The mixture was extracted with EtOAc. The organic was washed with brine, dried over Na2SO4 and concentrated. The crude product was purified by silica gel (60-120) column chromatography using 35% EtOAc/Pet ether as eluent. Yield: 2.5 g (crude).

reactant | 2-furonitrile | 53.71 mmol, 5 g, 1.0 eq | O1C(=CC=C1)C#N | C5H3NO
reactant | EtMgBr | CC[Mg+].[Br-]
reactant | BF3.Et2O | 10.4 ml | B(F)(F)F.CCOCC
reactant | NaOH | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | titanium isopropoxide | 64.4 mmol, 18.9 ml, 1.2 eq | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | THF | 129 mmol, 129 ml, 2.4 eq | C1CCOC1 | C4H8O
product | 1-(furan-2-yl)cyclopropanamine | O1C(=CC=C1)C1(CC1)N | C7H9NO
